US05677473
Four hundred grams of oleic acid (SO-90L, produced by Kao Corporation), 16 g of activated clay (CS-1, mean inter-layer distance of 4 Å, produced by Mizusawa Kagaku) and 8 g of water were placed in an autoclave. After the inside atmosphere of the autoclave was replaced with nitrogen, the mixture was stirred. The inside of the autoclave was heated to 240° C. and kept in a steam atmosphere of 14 kgf/cm2 for 6 hours. After cooling, the reaction mixture obtained was taken out from the autoclave, and the semisynthetic clay was filtered off. The filtrate was distilled under a reduced pressure to yield 167.6 g of monomeric acids.

reactant | CS-1 | CN1C(=O)[C@@]23C[C@]4([C@@H](N2C(=O)[C@@]1(SS3)CO)NC5=CC=CC=C54)N6C=C(C7=CC=CC=C76)CC89C(=O)N([C@](C(=O)N8C)(SS9)CO)C | C31H30N6O6S4
reactant | water | 8 g | O | H2O
product | oleic acid | Four hundred grams | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
